US08871798B2
5-(3-Fluorophenyl)pyridine-2-carbaldehyde
A mixture of 2 g of 5-bromopyridine-2-carbaldehyde, 1.96 g of 3-fluorophenylboronic acid, 11.2 g of K2CO3, 160 ml of toluene, 60 ml of water, 60 ml of ethanol and 0.93 mg of tetrakis(triphenylphosphine)palladium(0) is stirred at 100° C. under argon for 2 hours. The solvents are evaporated and the residue is dispersed in 100 ml of water, and the product is extracted with 2 portions of 30 ml of ethyl acetate. The organic phase is washed with 30 ml of sat. brine, dried over sodium sulfate and concentrated. The resulting residue is recrystallized from 28 ml of isopropanol.

reactant | 5-bromopyridine-2-carbaldehyde | 2 g | BrC=1C=CC(=NC1)C=O | C6H4BrNO
reactant | 3-fluorophenylboronic acid | 1.96 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | K2CO3 | 11.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.93 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 5-(3-Fluorophenyl)pyridine-2-carbaldehyde | FC=1C=C(C=CC1)C=1C=CC(=NC1)C=O | C12H8FNO
